US08461189B2
Benzyl(2-{[4-(acetylamino)benzoyl]amino}-6-phenylpyridin-3-yl)carbamate
A solution of 4-(acetylamino)benzoic acid (33.6 mg, 0.188 mmol) and methylene chloride (0.190 mL) was cooled to 0° C. and treated with thionyl chloride (41 uL, 0.563 mmol) and a drop of DMF. The cold bath was removed, and the reaction progress was checked via piperidine quench and LCMS. The reaction was thoroughly concentrated and dissolved in methylene chloride:THF (1:1, 0.240 mL) and benzyl(2-amino-6-phenylpyridin-3-yl)carbamate (20 mg, 0.0626 mmol) added. After 2 days the reaction was concentrated, taken into DMF and purified via reversed phase HPLC, 20-80% MeCN in water with 0.05% TFA to afford the requisite compound which was taken to the next reaction. MS cal'd 481 (M+H)+, exp 481 (M+H)+.

reactant | 4-(acetylamino)benzoic acid | 0.188 mmol, 33.6 mg | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
reactant | methylene chloride | 0.190 mL | C(Cl)Cl | CH2Cl2
reactant | thionyl chloride | 0.563 mmol, 41 uL | S(=O)(Cl)Cl | Cl2OS
reactant | benzyl(2-amino-6-phenylpyridin-3-yl)carbamate | 0.0626 mmol, 20 mg | C(C1=CC=CC=C1)OC(NC=1C(=NC(=CC1)C1=CC=CC=C1)N)=O | C19H17N3O2
solvent | DMF | CN(C)C=O | C3H7NO
product | Benzyl(2-{[4-(acetylamino)benzoyl]amino}-6-phenylpyridin-3-yl)carbamate | C(C1=CC=CC=C1)OC(NC=1C(=NC(=CC1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)NC(C)=O)=O)=O | C28H24N4O4
